2178-10-17 10:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Tearful this morning.  Worried about housing and care for dog.  Didn
   sleep overnight.
   Dyspnea with repositioning
   Feels thirsty.
   No CP, SOB, fevers, or other new sx.
   Tele-> PVCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2178-10-16**] 08:48 PM
   Vancomycin - [**2178-10-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-10-16**] 09:05 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-17**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 92 (76 - 92) bpm
   BP: 118/75(86) {103/11(48) - 145/75(88)} mmHg
   RR: 13 (11 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    546 mL
                                                                    605 mL
   PO:
                                                                    150 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    396 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    650 mL
   Urine:
                                                                    200 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    346 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94% on RA, CPAP o/n
   ABG: ///27/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Speach mildly slow and
   tangentiual.
   HEENT: NCAT. Sclera with possible icterus.  PERRL (6->3mm), EOMI. Dry
   MM
   Neck: Supple with JVP of 6 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. 3/6 systolic murmur at RUSB.  No S3 or S4.
   Chest: Resp were unlabored, no accessory muscle use. Trace left basilar
   crackles.
   Abd: Soft, NTND. No palpable HSM.  Reproducible RLQ focal tenderness to
   palpation improved.  No rebound or guarding.
   Ext: No c/c/e. No femoral bruits.  No tenderness with active or passive
   motion of prosthetic hip joint.
   Skin: Psoriatic plaques on elbows bilaterally.  No oslers nodes,
   [**Last Name (un) 1159**] lesions, splinter hemorrhages.
   Neuro: CN 2-12 intact, with exception of chronic decreased hearing
   worse on left.  Muscles with normal bulk and tone.  [**4-20**]  strength in
   upper and lower extremities.  Normal sensation throughout.  Reflexes 2+
   bilaterally.
   .
   Labs / Radiology
   184 K/uL
   10.2 g/dL
   92 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.9 mEq/L
   17 mg/dL
   99 mEq/L
   134 mEq/L
   30.0 %
   6.8 K/uL
        [image002.jpg]
                            [**2178-10-16**]  05:36 PM
                            [**2178-10-16**]  06:20 PM
                             [**2178-10-17**]  05:59 AM
   WBC
   6.8
   6.8
   Hct
   31.8
   30.0
   Plt
   196
   184
   Cr
   1.2
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   95
   92
   Other labs: PT / PTT / INR:15.9/34.7/1.4, CK / CKMB /
   Troponin-T:20//<0.01, ALT / AST:[**12-4**], Alk Phos / T Bili:88/0.7,
   Differential-Neuts:84.6 %, Lymph:10.7 %, Mono:3.7 %, Eos:0.8 %,
   Fibrinogen:390 mg/dL, Albumin:3.4 g/dL, LDH:178 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   ESR 63
   BCx: P, CTA Head: No acute process (prelim).  Abd: No evidence of
   infarct (prelim);  Panorex scheduled
   Assessment and Plan
   69 M with HL, HTN, IPF, CRI, Hep C, and psoriatic arthritis presenting
   with bacterial endocarditis and CHF exacerbation.
   BACTERIAL ENDOCARDITIS - History of nightsweats for months and
   progressive dyspnea argues against acute endocarditis, as does
   appearence of vegitations and regurgitation on multiple valves.  CT
   scan shows one possible septic embolism, raising concern for other
   embolic disease.  Source of endocarditis unclear.  [**Name2 (NI) **] denies drug
   use, making S. viridans, S. aureus, Enterococcus, other abdominal flora
   the most likely causal agents.  Heart failure in setting of
   endocarditis woudl be a surgical indication.
   - Vanc and [**Last Name (LF) 2306**], [**First Name3 (LF) 124**] dose with levels
   - Cardiac [**Doctor First Name 91**] to consider operative repair.  If stable, this should be
   delayed until 5 days of antibiotic therapy given.  Will do pre-op
   carotid ultrasound, head CT.
   - Cardiac cath likely on monday to eval for CABG indications
   - Imaging of pelvis given lower abdominal tenderness to look for
   abdominal source.
   - Given effusions on CT, would consider tapping to look for evidence of
   infection.  Will hold off for now.
   - Daily cultures, [**Hospital1 **] tomorrow
   - Daily EKGs
   - Dental consult, panorex
   - ID consult for further recommendations
   .
   CONGESTIVE HEART FAILURE - Has been agressively diureses at OSH and in
   the setting of infection and contrast.
   - Fluid goal -500 cc.  Will give 20 mg Lasix
   - Monitor respiratory status
   .
   NECK PAIN - Has neck pain that he was told was related to canal
   narrowing, but there is concern for abscess given endocarditis.  Per
   patient report, he had recent MRI imaging showing canal narrowing.
   - Obtain MRI report from [**Hospital3 57**] Hospital to verify
   .
   ABDOMINAL TENDERNESS - Does not complain of abdominal pain, but RLQ
   tenderness and h/o BRBPR.  CT showed mild appendiceal inflammation.
   Abdomen is non-surgical.
   - Guiac stools
   - Serial abdominal exams.
   - CT Pelvis to evaluate area of tenderness not seen on OSH imaging.
   PSORIATIC ARTHRITIS
   Pain control with tylenol
   INTERSTITIAL PULMONARY FIBROSIS - Normal PFTs in [**2171**] and not on O2 at
   home.  This likely does not explain his hypoxia but may be a
   contributor.
   - continue to monitor
   RENAL INSUFFICIENCY - at baseline.  Will d/c NSAID
   PSYCH: Has anxiety and baseline depression.  Will increase trazodone to
   100 mg QHS as this is his home med.
   - S/W c/s for patient coping
   - consider psych involvement if worsening.
   .
   #. FEN: Follow and replete electrolytes. Cardiac diet. No IVF at
   present.
   .
   #. Access:  PIV
   .
   #. PPx:  PO diet.  Pantoprazole 40 mg IV Q24H  SQ Heparin
   .
   #. Code:  presumed full
   .
   #. Dispo:  CCU for now

2178-10-19 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2178-10-18**] 08:45 AM
   Dental Consult: cleared for surger, no evidence of dental infection
   S: Feeling well , somewhat stiff from not moving.  Anxious for cath
   today.  No CP, SOB, other new sx.
   Tele: Alarms for irregular heart rate.  Ectopic atrial focus with
   trigemony
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-10-18**] 07:43 PM
   Gentamicin - [**2178-10-18**] 10:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-10-19**] 06:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-10-18**] 04:30 PM
   Pantoprazole (Protonix) - [**2178-10-18**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-19**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 80 (73 - 91) bpm
   BP: 92/50(60) {92/31(51) - 125/74(83)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 76.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,486 mL
                                                                    100 mL
   PO:
                                                                  1,470 mL
             TF:
   IVF:
                                                                  1,016 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    300 mL
   Urine:
                                                                  2,550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Speach mildly slow and
   tangentiual.
   HEENT: NCAT. Sclera with possible icterus.  PERRL (6->3mm), EOMI.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   Neck: Supple with JVP of 6 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. 4/6 systolic murmur at RUSB.  Palpable thrill.  No S3 or
   S4.
   Chest: Resp were unlabored, no accessory muscle use. Dullness at right
   base and left basilar crackles.
   Abd: Soft, NTND. No palpable HSM.  Reproducible RLQ focal tenderness to
   palpation.  No rebound or guarding.
   Ext: No c/c/e. No femoral bruits.  No tenderness with active or passive
   motion of prosthetic hip joint.
   Skin: Psoriatic plaques on elbows bilaterally.  No oslers nodes,
   [**Last Name (un) 1159**] lesions, splinter hemorrhages.
   Neuro: CN 2-12 intact, with exception of chronic decreased hearing
   worse on left.  Muscles with normal bulk and tone.  [**4-20**]  strength in
   upper and lower extremities.  Normal sensation throughout.  Reflexes 2+
   bilaterally.
   Labs / Radiology
                                     136
                               [image002.gif]
                                     99
                               [image002.gif]
                                     18
   [image004.gif]
   93
                                                                   AGap=11
   [image005.gif]
   3.7
                               [image002.gif]
                                     30
                               [image002.gif]
                                     1.2
   [image007.gif]
   Mg: 2.1
   82
   6.9
                                                            [image007.gif]
                                    10.3
   [image004.gif]
   192
                 [image008.gif]
   [image004.gif]
                                    29.7
   [image007.gif]
   PT: 15.0
   PTT: 34.1
   INR: 1.3
                            [**2178-10-16**]  05:36 PM
                            [**2178-10-16**]  06:20 PM
                             [**2178-10-17**]  05:59 AM
                             [**2178-10-18**]  05:58 AM
                             [**2178-10-19**]  05:55 AM
   WBC
   6.8
   6.8
   6.4
   6.9
   Hct
   31.8
   30.0
   30.7
   29.7
   Plt
   196
   184
   203
   192
   Cr
   1.2
   1.0
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   95
   92
   88
   Other labs: PT / PTT / INR:15.0/34.1/1.3, CK / CKMB /
   Troponin-T:18//<0.01, ALT / AST:17/27, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:83.0 %, Band:0.0 %, Lymph:4.0 %, Mono:12.0 %,
   Eos:1.0 %, Fibrinogen:390 mg/dL, Albumin:3.4 g/dL, LDH:187 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   69 M with HL, HTN, IPF, CRI, Hep C, and psoriatic arthritis presenting
   with bacterial endocarditis and CHF exacerbation.
   BACTERIAL ENDOCARDITIS - Tricuspid and Aortic of unknown etiology.
   Cath showed normal coronaries.
   - OSH BCx with GPR in [**1-19**] bottles, not speciated yet
   - On Vanc, Gent and Zosyn, will dose by levels. Holding Gent today
   given cath (renal protection).  Will restart on [**Hospital1 **] dosing given
   elevated levels.
   - [**Doctor First Name **] following, would prefer to hold off [**Doctor First Name 91**].  Will try to obtain
   recodes from oustide
   - Daily cultures, Daily EKGs
   - Dental to see after panorex
   - ID following
   .
   CONGESTIVE HEART FAILURE - Has been agressively diureses at OSH and in
   the setting of infection and contrast.
   - Diuresed well to Lasix 20mg IV, now satting well on RA
   - Fluid goal even to slightly negative
   .
   PSORIATIC ARTHRITIS
   - Pain control with tylenol
   - Consider PT once recovered from cath
   .
   PSYCH: Has anxiety and baseline depression.
   - Continue trazadone for sleep
   - S/W following
   .
   #. FEN: replete electrolytes prn, NPO after MN. Cardiac diet. No IVF.
   #. Access:  PIV
   #. PPx:  PO diet.  Pantoprazole 40 mg IV Q24H  SQ Heparin
   #. Code:  presumed full
   #. Dispo:  pending